Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Upper GI Bleed
 
Major Surgical or Invasive Procedure:
___: EGD with cauterized and endoclip placement
___: ___ coil embolization of gastroduodenal artery

 
History of Present Illness:
___ yo male from ___ with h/o HTN, HLD, PUD, CAD presenting 
for upper GIB. Pt in usual state until this morning, noticed 
multiple melenic stools in the morning as well as 2 episodes of 
BRBPR, presented to OSH with stable vital signs and c/o 
dizziness, found to have Hgb 10 (previously normal baseline). He 
denied h/o NSAIDs, denies h/o ETOH use here. He was going to get 
an EGD but en route had a syncopal episode and was hypotensive 
to the 80's, 750 cc bloody output from NGT. He was started on 
pantoprazole and Pepcid, and received 2 U pRBCs. He was 
transferred to ___ for further management. 

 
Past Medical History:
HTN 
HLD 
PUD with EGD in ___ "for a hole" 
CAD s/p cath many years ago
 
Social History:
___
Family History:
Non-Contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=====================
Vitals: T: afebrile BP: 150/80s P: 100s R: 18 O2: 100% 2 L NC   
GENERAL: Somnolent, arousable to voice   
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, rhonchi in LLL 
CV: Tachycardic, no murmurs appreciated 
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: no rashes noted 
NEURO: moving all extremities spontaneously 

DISCHARGE PHYSICAL EXAM
======================
VITALS: 97.9 PO 147 / 76 67 18 100 RA  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, conjunctiva not 
pale, MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: regular rate and rhythm S1/S2, no murmurs, gallops, or 
rubs  
LUNG: CTAB
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose.
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

 
Pertinent Results:
ADMISSION LAB RESULTS
===================
___ 09:39PM BLOOD WBC-10.9* RBC-2.99* Hgb-9.1* Hct-28.7* 
MCV-96 MCH-30.4 MCHC-31.7* RDW-13.5 RDWSD-47.7* Plt ___
___ 01:30AM BLOOD WBC-12.3* RBC-3.23* Hgb-9.6* Hct-31.3* 
MCV-97 MCH-29.7 MCHC-30.7* RDW-13.9 RDWSD-49.3* Plt ___
___ 05:39AM BLOOD WBC-14.1* RBC-2.75* Hgb-8.3* Hct-25.5* 
MCV-93 MCH-30.2 MCHC-32.5 RDW-14.0 RDWSD-47.3* Plt ___
___ 11:05AM BLOOD Hgb-7.4* Hct-23.5*
___ 06:28PM BLOOD Hgb-7.0* Hct-21.4*
___ 12:02AM BLOOD WBC-11.9* RBC-2.58* Hgb-8.1* Hct-24.2* 
MCV-94 MCH-31.4 MCHC-33.5 RDW-14.3 RDWSD-47.9* Plt ___
___ 05:16AM BLOOD WBC-11.4* RBC-2.53* Hgb-7.8* Hct-23.6* 
MCV-93 MCH-30.8 MCHC-33.1 RDW-13.7 RDWSD-47.0* Plt ___
___ 08:23AM BLOOD WBC-11.2* RBC-2.64* Hgb-8.1* Hct-24.9* 
MCV-94 MCH-30.7 MCHC-32.5 RDW-13.5 RDWSD-46.5* Plt ___
___ 09:39PM BLOOD Neuts-76.5* Lymphs-18.3* Monos-4.6* 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-8.37* AbsLymp-2.00 
AbsMono-0.50 AbsEos-0.00* AbsBaso-0.03
___ 09:39PM BLOOD ___ TO  PTT-UNABLE TO  
___ TO 
___ 09:39PM BLOOD Plt ___
___ 01:30AM BLOOD ___ PTT-19.7* ___
___ 01:30AM BLOOD Plt ___
___ 05:39AM BLOOD Plt ___
___ 12:02AM BLOOD Plt ___
___ 05:16AM BLOOD Plt ___
___ 08:23AM BLOOD Plt ___
___ 09:39PM BLOOD Glucose-133* UreaN-49* Creat-1.0 Na-135 
K-4.5 Cl-103 HCO3-20* AnGap-17
___ 01:30AM BLOOD Glucose-148* UreaN-44* Creat-1.1 Na-135 
K-4.8 Cl-104 HCO3-20* AnGap-16
___ 05:16AM BLOOD Glucose-101* UreaN-23* Creat-1.2 Na-136 
K-4.1 Cl-103 HCO3-25 AnGap-12
___ 01:30AM BLOOD ALT-17 AST-25 LD(LDH)-205 AlkPhos-50 
TotBili-1.8*
___ 05:16AM BLOOD CK(CPK)-74
___ 08:23AM BLOOD CK(CPK)-71
___ 09:39PM BLOOD cTropnT-<0.01
___ 05:16AM BLOOD CK-MB-PND cTropnT-<0.01
___ 08:23AM BLOOD CK-MB-PND cTropnT-<0.01
___ 09:39PM BLOOD Albumin-3.3*
___ 01:30AM BLOOD Calcium-7.9* Phos-3.3 Mg-1.7
___ 05:16AM BLOOD Calcium-8.6 Phos-2.7 Mg-2.0
___ 06:02AM BLOOD ___ pO2-38* pCO2-40 pH-7.38 
calTCO2-25 Base XS-0 Comment-CA++ ADDED
___ 06:02AM BLOOD freeCa-1.10*
___ 09:45PM BLOOD Lactate-2.1*
___ 06:02AM BLOOD Lactate-1.6

DISCHARGE LAB RESULTS
====================
___ 06:50AM BLOOD WBC-8.9 RBC-2.82* Hgb-8.6* Hct-26.6* 
MCV-94 MCH-30.5 MCHC-32.3 RDW-13.9 RDWSD-46.8* Plt ___
___ 06:40AM BLOOD Glucose-104* UreaN-19 Creat-1.1 Na-134 
K-4.0 Cl-99 HCO3-26 AnGap-13
___ 06:40AM BLOOD Calcium-8.5 Phos-2.5* Mg-1.9

PROCEDURES
==========
___ EGD
Normal mucosa in the esophagus
Normal mucosa in the stomach
Blood in the fundus and antrum
Blood in the stomach body and fundus
Ulcer in the pyloric channel (injection, endoclip, thermal 
therapy)
Ulcers in the posterior bulb
Blood in the duodenal bulb and first part of the duodenum
Diverticulum in the posterior bulb
Otherwise normal EGD to third part of the duodenum

___ Mesenteric Arteriogram: 
Successful coil embolization of the gastroduodenal artery
 
Brief Hospital Course:
___ yo male from ___ with h/o HTN, HLD, PUD, CAD presenting 
for upper GIB. 

# GI bleed: patient with reported melena, BRBPR. Hemoglobin 
bumped appropriately after 2U pRBCs. EGD showed large pyloric 
channel ulcer, which, even with IV PPI BID still has the 
potential to rebleed. The ulcer was cauterized and an endoclip 
was placed on ___. However, he continued to drop his 
hemoglobin, and ___ was consulted. He had a coil embolization of 
his gastroduodenal artery on ___. He was transfused two units 
on ___ ___nd maintained stable follow up H/H. He had no 
further evidence of continued bleed on ___. He will need to 
take pantoprazole 40mg BID for 2 months (until ___, at which point he can start taking it once per day. 

#Peptic ulcer disease. Patient with history of peptic ulcer 
disease and now found to be H. pylori positive. He was started 
triple therapy. Day 1 = ___. Clarithromycin, PPI BID, 
amoxicillin. Time course for treatment: 14 days. Day 14 = ___. 
We began holding his statin at initiation of triple therapy 
because of interaction with clarithromycin

# Bradycardia: Patient was originally hypertensive and 
tachycardic. However, initial troponins in the ED were negative 
and his tachycardia resolved with blood transfusion. He then 
became asymptomatically bradycardic. EKG revealed biphasic T 
waves. Repeat troponins x3 were negative. His home metoprolol 
and isosorbide were held. His bradycardia had more or less 
resolved at time of discharge on ___ and he restarted his home 
medications except isosorbide. These changes are likely 
consistent with a stress cardiomyopathy in the setting of his GI 
bleed; EKG findings had improved significantly by discharge. We 
discussed his EKG findings with Cardiology, who felt that it 
likely represented stunning of the myocardium in the setting of 
acute onset of severe illness (e.g. stress cardiomyopathy), and 
that it was reassuring that the EKG changes were improving over 
time, that the patient had negative troponins when the EKG 
changes developed, and that the patient had no cardiopulmonary 
symptoms.  They advised consideration of cardiology follow-up as 
an outpatient.

TRANSITIONAL ISSUES
===================
- Please consider referring to cardiology for further evaluation 
of EKG changes if still present at f/u visit; including possibly 
echocardiography to evaluate for any sort of persistent 
cardiomyopathy. If he has symptomatic manifestations, he should 
be stress tested. 
- Patient to take pantoprazole 40mg BID for two months (until 
___ at which point he can take it once per day
- Patient to take clarithromycin and amoxicillin twice per day 
for two weeks. Day 1 = ___ Day 14 = ___. He is not to take his 
statin while taking clarithromycin because it interacts with 
clarithromycin
- Restart statin ___ once finished with H.Pylori treatment
- Holding isosorbide on discharge given that blood pressures 
have been well controlled without it. Please resume as 
outpatient if needed for BP control. 

# Communication/HCP: ___, ___
# Code: Full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Furosemide 20 mg PO DAILY 
4. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
5. Lisinopril 20 mg PO DAILY 
6. Metoprolol Succinate XL 25 mg PO DAILY 

 
Discharge Medications:
1.  Amoxicillin 1000 mg PO Q12H 
RX *amoxicillin 500 mg 2 tablet(s) by mouth every 12 hours Disp 
#*48 Tablet Refills:*0 
2.  Clarithromycin 500 mg PO Q12H 
RX *clarithromycin 500 mg 1 tablet(s) by mouth every 12 hours 
Disp #*24 Tablet Refills:*0 
3.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth every 12 hours Disp 
#*60 Tablet Refills:*1 
4.  Aspirin 81 mg PO DAILY  
5.  Furosemide 20 mg PO DAILY  
6.  Lisinopril 20 mg PO DAILY  
7.  Metoprolol Succinate XL 25 mg PO DAILY  
8. HELD- Atorvastatin 80 mg PO QPM  This medication was held. Do 
not restart Atorvastatin until ___
9. HELD- Isosorbide Mononitrate (Extended Release) 30 mg PO 
DAILY  This medication was held. Do not restart Isosorbide 
Mononitrate (Extended Release) until you follow up with your PCP 
and have your blood pressure rechecked

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
- Upper GI bleed

Secondary diagnosis:
- Bradycardia
- Coronary artery disease
- Hyperlipidemia
- Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were seen at ___.

What did you come to the hospital?
=========================
- You were transferred here from another hospital because you 
were bleeding into your GI tract
- You also had a slow heart rhythm, which was new but not 
concerning for any worrisome illness

What did we do for you?
==================
- You had a procedure (EGD) where the bleeding was stopped with 
a clip
- You had a second procedure (embolization) because you were 
still bleeding after the first procedure

What do you need to do?
==================
- It is very important that you follow up with your primary care 
doctor
- It is also important that you continue taking the medications 
that we started while you were in the hospital: pantoprazole, 
clarithromycin, and amoxicillin all two times per day. 
- The last day of clarithromycin and amoxicillin is ___.
- Continue taking pantoprazole two times per day until 
___, at which point you can take it once per day. 

It was a pleasure caring for you while you were here. We wish 
you the best!

Sincerely,
Your ___ Team

 
Followup Instructions:
___